US06660744B1
3-Iodo-1-(4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine dihydrochloride salt (3 g, 7.19 mmol) was suspended in dichloromethane (350 mL) then N,N-dimethyl glycine (1.02 g, 9.88 mmol), 1-hydroxy-7-azabenzotriazole (1.08 g, 7.91 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.89 g, 9.89 mmol), and N-ethyl-N-isopropylamine (5.06 g, 39.2 mmol) were added over 4 days. The reaction was diluted with dichloromethane (300 mL) then washed with water (150 mL) and brine (150 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to afford 1-[4-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)piperidino]-2-(dimethylamino)-1-ethanone as a tan solid (2.74 g, 6.39 mmol). HPLC-RT: 7.40 min. (flow rate: 1 mL/min λ=254 nm Gradient: 5% to 85% acetonitrile/0.1M aqueous ammonium acetate gradient over 20 min.; Deltapak C18, 300 Å, 5 μm, 150×3.9 mm column); m/z (MH+)=430.3.

reactant | 3-Iodo-1-(4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine dihydrochloride salt | 7.19 mmol, 3 g | Cl.Cl.IC1=NN(C2=NC=NC(=C21)N)C2CCNCC2
reactant | N,N-dimethyl glycine | 9.88 mmol, 1.02 g | CN(CC(=O)O)C | C4H9NO2
reactant | 1-hydroxy-7-azabenzotriazole | 7.91 mmol, 1.08 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 9.89 mmol, 1.89 g | Cl.CN(CCCN=C=NCC)C
reactant | N-ethyl-N-isopropylamine | 39.2 mmol, 5.06 g | C(C)NC(C)C | C5H13N
solvent | dichloromethane | 350 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | 1-[4-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)piperidino]-2-(dimethylamino)-1-ethanone | 6.39 mmol, 2.74 g | NC1=C2C(=NC=N1)N(N=C2I)C2CCN(CC2)C(CN(C)C)=O | C14H20IN7O
